US07115750B1
4′-Fluoro-N-[4-(3-piperidinylmethyl)phenyl][1,1′-biphenyl]-4-carboxamide hydrochloride
4N Hydrogen chloride-ethyl acetate (3 ml) was added to tert-butyl 3-[4-[[(4′-fluoro[1,1′-biphenyl]-4-yl)carbonyl]amino]benzyl]-1-piperidinecarboxylate (150 mg, 0.307 mmol) obtained in Reference Example 81. Two hours later, the solvent was distilled out under reduced pressure. Diisopropyl ether was added to the residue, to give the titled compound (115 mg) as a colorless powder.

reactant | Hydrogen chloride-ethyl acetate | 4N, 3 ml | C(C)(=O)OCC.Cl
reactant | tert-butyl 3-[4-[[(4′-fluoro[1,1′-biphenyl]-4-yl)carbonyl]amino]benzyl]-1-piperidinecarboxylate | 0.307 mmol, 150 mg | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)NC1=CC=C(CC2CN(CCC2)C(=O)OC(C)(C)C)C=C1 | C30H33FN2O3
product | 4′-Fluoro-N-[4-(3-piperidinylmethyl)phenyl][1,1′-biphenyl]-4-carboxamide hydrochloride | 115 mg | Cl.FC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)NC1=CC=C(C=C1)CC1CNCCC1 | InChI=1S/C25H25FN2O.ClH/c26-23-11-9-21(10-12-23)20-5-7-22(8-6-20)25(29)28-24-13-3-18(4-14-24)16-19-2-1-15-27-17-19;/h3-14,19,27H,1-2,15-17H2,(H,28,29);1H
